US05866576
A mixture of 3-(8,9-dihydroxynonyl)-1-methylthymine (2.16 g, 7.6 mmol) and a 30% solution of hydrogen bromide in acetic acid (4.5 mL, 23 mmol ) was stirred for 1 hour. The reaction was added slowly to a beaker containing sodium bicarbonate (8.4 g, 0.1 mol), ice water (30 mL), and dichloromethane (30 mL). The layers were separated and the aqueous layer extracted with dichloromethane (2×60 mL). The combined organic layers were washed with water (30 mL), saturated aqueous salt solution (30 mL), and dried over sodium sulfate. The solvent was removed to yield 2.59 g (85% yield) 3-(8-acetoxy-9-bromononyl)-1-methylthymine (inventive compound no. 1908) as a thick, slightly orange oil.

reactant | 3-(8,9-dihydroxynonyl)-1-methylthymine | 7.6 mmol, 2.16 g | OC(CCCCCCCN1C(N(C=C(C1=O)C)C)=O)CO | C15H26N2O4
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 23 mmol, 4.5 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 0.1 mol, 8.4 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-(8-acetoxy-9-bromononyl)-1-methylthymine | 2.59 g, 85% yield | C(C)(=O)OC(CCCCCCCN1C(N(C=C(C1=O)C)C)=O)CBr | C17H27BrN2O4
